US05149699
2,4-Dimethyl-8-[[2'-cyano[1,1-biphenyl]-4-yl]methyl]-7H-pyrido[2,3-d]pyrimidin-7-one
Using the same procedure as described in Step 1 of Example 8, to a stirred suspension of NaH (60% dispersion in mineral oil) in DMF add 2,4-dimethyl-7H-pyrido[2,3-d]pyrimidin-7-one, prepared according to T. Sakamoto, et al. Chem. Pharm. Bull., 1982, 30, 2410. After 45 min, add 2-[4-(bromomethyl)phenyl]benzonitrile in DMF and stir the mixture at room temperature for 18 h. Add water and extract the mixture with CH2Cl2. Concentrate the extracts and purify the crude product by flash chromatography (2% MeOH/CH2Cl2). Trituration with ether gives the product.

reactant | NaH | [H-].[Na+]
reactant | 2,4-dimethyl-7H-pyrido[2,3-d]pyrimidin-7-one | CC=1N=C(C=2C(N1)=NC(CC2)=O)C | C9H9N3O
reactant | 2-[4-(bromomethyl)phenyl]benzonitrile | BrCC1=CC=C(C=C1)C1=C(C#N)C=CC=C1 | C14H10BrN
solvent | DMF | CN(C)C=O | C3H7NO
product | 2,4-Dimethyl-8-[[2'-cyano[1,1-biphenyl]-4-yl]methyl]-7H-pyrido[2,3-d]pyrimidin-7-one | CC=1N=C(C2=C(N1)N(C(C=C2)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C#N)C | C23H18N4O
